US04166732
Preparation of 2-[3-(3,4-Dichlorophenyl)-1,2,4-Oxadiazol-5-yl]Benzoic Acid
A mixture of 14.17 g (0.0691 mol) of 3,4-dichlorobenzamide oxime and 10.24 g (0.0691 mol) of phthalic anhydride was heated gently with stirring to about 90° C., at which time a very vigorous exotherm carried the temperature to above 170° C.; the mixture was cooled in water to 130° C. and held at 130° C. for a few minutes, and then was cooled to 25° C. The mixture was extracted with 1 liter of ethanol and was filtered to give 3.5 g of insoluble solid, mp 200°-215° C.

reactant | 3,4-dichlorobenzamide oxime | 0.0691 mol, 14.17 g | ClC=1C=C(C(N)=NO)C=CC1Cl | C7H6Cl2N2O
reactant | phthalic anhydride | 0.0691 mol, 10.24 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | water | O | H2O
product | 2-[3-(3,4-Dichlorophenyl)-1,2,4-Oxadiazol-5-yl]Benzoic Acid | 3.5 g | ClC=1C=C(C=CC1Cl)C1=NOC(=N1)C1=C(C(=O)O)C=CC=C1 | C15H8Cl2N2O3
